US06710078B2
Following the procedure of Method C, Example 1, (E)-2-(4-fluorophenyl)-2-methyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone was reacted with 1,4-dithio-DL-threitol to give 5-(2-{[(2S*,3S*)-2,3-dihydroxy-4-mercaptobutyl]thio}-2-thien-3-ylethyl)-2-(4-fluorophenyl)-2methylfuran-3(2H)-one: 1H NMR (DMSO-d6) δ1.53, 1.57 and 1.60 (overlapped singlets, 3H), 4.60 (m, 1H), 5.56 and 5.57 (overlapped singlets, 1H), 7.12-7.60 (m, 7H); MS (LR-ESI) m/z 455 (M+H calcd. for C21H24FO4S3 455).

reactant | (E)-2-(4-fluorophenyl)-2-methyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | FC1=CC=C(C=C1)C1(OC(=CC1=O)\C=C\C1=CSC=C1)C | C17H13FO2S
reactant | 1,4-dithio-DL-threitol | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
product | 5-(2-{[(2S*,3S*)-2,3-dihydroxy-4-mercaptobutyl]thio}-2-thien-3-ylethyl)-2-(4-fluorophenyl)-2methylfuran-3(2H)-one | O[C@H](CSC(CC1=CC(C(O1)(C)C1=CC=C(C=C1)F)=O)C1=CSC=C1)[C@@H](CS)O | C21H23FO4S3
